US04894386
4-[5-(Butylcarbamoyl)methyl-1-propylindol-3-ylmethyl]-3-methoxy-N-(2-methylphenylsulfonyl)benzamide
A solution of 4-[1-allyl-5-(butylcarbamoyl)methylindol-3-ylmethyl]-3-methoxy-N-(2-methylphenylsulfonyl)benzamide (0.35 g) in 1N sodium hydroxide (0.6 ml) and ethanol (10 ml) was hydrogenated at 3.45 bar in the presence of 10% (w/w) palladium-on-carbon (0.09 g) for 3 hours. The catalyst was removed by was evaporated. The residue was dissolved in H2O (10 ml) and the resultant aqueous solution was acidified with 10% (v/v) hydrochloric acid. The white precipitate which formed was collected by filtration, washed with water, and dried under vacuum to give the title compound (0.27 g, 77%) as a white powder; mp 100°-102°.

reactant | 4-[1-allyl-5-(butylcarbamoyl)methylindol-3-ylmethyl]-3-methoxy-N-(2-methylphenylsulfonyl)benzamide | 0.35 g | C(C=C)N1C=C(C2=CC(=CC=C12)CC(NCCCC)=O)CC1=C(C=C(C(=O)NS(=O)(=O)C2=C(C=CC=C2)C)C=C1)OC | C33H37N3O5S
solvent | sodium hydroxide | 1N, 0.6 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 0.09 g | [Pd] | Pd
product | 4-[5-(Butylcarbamoyl)methyl-1-propylindol-3-ylmethyl]-3-methoxy-N-(2-methylphenylsulfonyl)benzamide | 0.27 g, 77% | C(CCC)NC(=O)CC=1C=C2C(=CN(C2=CC1)CCC)CC1=C(C=C(C(=O)NS(=O)(=O)C2=C(C=CC=C2)C)C=C1)OC | C33H39N3O5S
